US08975254B2
N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-3-methyl-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 20 starting from 3-methyl-1H-pyrazole-5-carboxylic acid and 2-(5-(3,4-dichlorophenyl)furan-2-yl)ethanamine hydrochloride. Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-100% EtOAc/heptane) to obtain 301 mg (28%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 2.25 (s, 3H), 2.92 (t, 2H), 3.53 (q, 2H), 6.32 (d, 1H), 6.34 (s, 1H), 7.01 (d, 1H), 7.63 (m, 2H), 7.85 (s, 1H), 8.16 (t, 1H), 13.86 (s, 1H).

reactant | 3-methyl-1H-pyrazole-5-carboxylic acid | CC1=NNC(=C1)C(=O)O | C5H6N2O2
reactant | 2-(5-(3,4-dichlorophenyl)furan-2-yl)ethanamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN
product | N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-3-methyl-1H-pyrazole-5-carboxamide | 301 mg, 28% | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C | C17H15Cl2N3O2
